US04987135
2.0 g of 4-(5 chloro-2-pyrimidinyloxy)-3methylaniline and 0.94 g of triethylamine were dissolved in 20 ml of toluene, and a solution of 1.61 g of 2-nitrobenzenesulfenyl chloride dissolved in 5 ml of toluene was dropwise added thereto at room temperature. The mixture was reacted at room temperature for 1 hour under stirring. After completion of the reaction, ethyl acetate was added to the reaction product, and the ethyl acetate layer was washed with water, dried over Glauber's salt and then purified by column chromatography to obtain 2.76 g of N-[4-(5-chloro-2-pyrimidinyloxy)-3-methylphenyl]-2-nitrobenzenesulfenamide (Intermediate Compound No. 37) (melting point: 74°-85° C.) in a yellow non-crystalline form.

reactant | 4-(5 chloro-2-pyrimidinyloxy)-3methylaniline | 2.0 g | ClC=1C=NC(=NC1)OC1=C(C=C(N)C=C1)C | C11H10ClN3O
reactant | triethylamine | 0.94 g | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzenesulfenyl chloride | 1.61 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-(5-chloro-2-pyrimidinyloxy)-3-methylphenyl]-2-nitrobenzenesulfenamide | 2.76 g | ClC=1C=NC(=NC1)OC1=C(C=C(C=C1)NSC1=C(C=CC=C1)[N+](=O)[O-])C | C17H13ClN4O3S
